US07208140B2
b) 1,4,7-Tris-(benzyloxycarbonyl)-10-(1-carboxyethyl)-1,4,7,10-tetrazacyclododecane
33.7 g (50 mmol) of 1,4,7-tris-(benzyloxycarbonyl)-10-(1-ethoxycarbonylethyl)-1,4,7,10-tetrazacyclododecane is dissolved [in] 300 ml of dioxane and mixed with 140 ml of 5% aqueous NaOH solution and stirred for 24 hours at room temperature. After neutralization with concentrated HCl, it is evaporated to the dry state. The residue is taken up in 250 ml of ethyl acetate and extracted twice with 250 ml each of 1N HCL solution. The organic phase is dried on sodium sulfate, and the solvent is evaporated to the dry state.

reactant | 1,4,7-tris-(benzyloxycarbonyl)-10-(1-ethoxycarbonylethyl)-1,4,7,10-tetrazacyclododecane | 50 mmol, 33.7 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CCN(CCN(CC1)C(C)C(=O)OCC)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C37H46N4O8
reactant | NaOH | 140 ml | [OH-].[Na+]
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 1,4,7-Tris-(benzyloxycarbonyl)-10-(1-carboxyethyl)-1,4,7,10-tetrazacyclododecane | C(C1=CC=CC=C1)OC(=O)N1CCN(CCN(CCN(CC1)C(C)C(=O)O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C35H42N4O8
